US09376392B2
Preparation of pyrimidin-5-ylmethyl methanesulfonate:
To a solution of pyrimidin-5-ylmethanol (200 mg, 1.82 mmol) and triethylamine (0.558 mL, 4.00 mmol) in dichloromethane was added methansulfonic anhydride (348 mg, 1.20 mmol) and the reaction was stirred at room temperature for 15 minutes. The product was diluted with water, extracted with dichloromethane (2×), washed with brine, dried over sodium sulfate and concentrated to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calc'd for C6H8N2O3S: 189.03; found: 189.00.

reactant | pyrimidin-5-ylmethanol | 1.82 mmol, 200 mg | N1=CN=CC(=C1)CO | C5H6N2O
reactant | triethylamine | 4.00 mmol, 0.558 mL | C(C)N(CC)CC | C6H15N
reactant | methansulfonic anhydride | 1.20 mmol, 348 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | pyrimidin-5-ylmethyl methanesulfonate | CS(=O)(=O)OCC=1C=NC=NC1 | C6H8N2O3S
